US07939552B2
Ethyl diethoxyphosphorylacetate (30 mL, 150 mmol) was dropped into a suspension of sodium hydride (60% oily) (6.00 g, 150 mmol) in THF (300 mL) at room temperature during 30 minutes. After the dropping, the mixture was stirred at room temperature for 1 hour more, a solution of 2-(3,5-bis(trifluoromethyl)-benzyloxy)-1-phenylethanone (48.90 g, 135 mmol) in THF (100 mL) was dropped thereinto at room temperature during 30 minutes and the mixture was stirred for 1 hour more. The reaction mixture was added to water (1000 mL) followed by extracting with ethyl acetate. The organic layers were combined, washed with water and a saturated saline solution and dried over anhydrous sodium sulfate and the solvent was evaporated in vacuo. The residual oily product was purified by a silica gel column chromatography (n-hexane:ethyl acetate=9:1) to give ethyl 4-(3,5-bis(trifluoromethyl)-benzyloxy)-3-phenyl-2-butenoate (40.00 g, 69%) as an oily product. 1H-NMR (DMSO-d6) δ: 1.23 (t, J=7.1 Hz, 3H), 4.15 (q, J=7.1 Hz, 2H), 4.63 (s, 2H), 5.08 (s, 2H), 6.24 (s, 1H), 7.39-7.43 (m, 3H), 7.57-7.61 (m, 2H), 7.79 (s, 2H), 7.96 (s, 1H).

reactant | Ethyl diethoxyphosphorylacetate | 150 mmol, 30 mL | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 150 mmol, 6.00 g | [H-].[Na+]
reactant | 2-(3,5-bis(trifluoromethyl)-benzyloxy)-1-phenylethanone | 135 mmol, 48.90 g | FC(C=1C=C(COCC(=O)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C17H12F6O2
reactant | water | 1000 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | ethyl 4-(3,5-bis(trifluoromethyl)-benzyloxy)-3-phenyl-2-butenoate | 40.00 g, 69% | FC(C=1C=C(COCC(=CC(=O)OCC)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C21H18F6O3
